US06437165B1
Step A: (+/−)-2-Methyl-4-hydroxymethyl-4-(2-(4-octylphenyl)ethyl)oxazoline
A solution of 450 mg (1.5 mmol) of 2-amino-2-hydroxymethyl-4-(4-(octyl)phenyl)butanol, 0.32 mL (1.75 mmol) of triethylorthoacetate and 0.56 mL (3.2 mmol) of DIEA in 6 mL of DMF was stirred at 75° C. for 2 h. The mixture was cooled, partitioned between 40 mL of 3:1 v/v ether/EtOAc and water and the layers were separated. The organic layer was washed with water and dried. Flash chromatography on silica gel using 4:1 v/v CH2Cl2/EtOAc as the eluant afforded 440 mg (91%) of the title compound: Mass spectrum (NH3—CI) 332 (M+H).

reactant | 2-amino-2-hydroxymethyl-4-(4-(octyl)phenyl)butanol | 1.5 mmol, 450 mg | NC(CO)(CCC1=CC=C(C=C1)CCCCCCCC)CO | C19H33NO2
reactant | triethylorthoacetate | 1.75 mmol, 0.32 mL | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | DIEA | 3.2 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (+/−)-2-Methyl-4-hydroxymethyl-4-(2-(4-octylphenyl)ethyl)oxazoline | 440 mg, 91% | CC=1OCC(N1)(CCC1=CC=C(C=C1)CCCCCCCC)CO | C21H33NO2
